US08580841B2
Step C: Preparation of Ethyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (1.237 g, 4.77 mmol) was dissolved in DMF (12 mL) and cesium carbonate (1.554 g, 4.77 mmol) was added. The reaction mixture was stirred at room temperature for 10 min and 5-(chloromethyl)-2-isopropoxybenzonitrile (1.0 g, 4.77 mmol) was added. The reaction mixture was stirred at 40° C. for 2 h before it was cooled to room temperature. The heterogenous mixture was filtered through Celite® and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (1.32 g). LCMS m/z=433.5 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.29 (t, J=7.2 Hz, 3H), 1.40 (d, J=6.1 Hz, 6H), 2.05-2.16 (m, 1H), 2.50 (dd, J=16.7, 11.1 Hz, 1H), 2.69-2.88 (m, 4H), 3.50-3.59 (m, 1H), 4.16-4.26 (m, 2H), 4.65 (septet, J=6.1 Hz, 1H), 5.00 (s, 2H), 6.80 (dd, J=8.7, 2.5 Hz, 1H), 6.94-6.97 (m, 2H), 7.20 (d, J=8.8 Hz, 1H), 7.58 (dd, J=8.7, 2.3 Hz, 1H), 7.64 (d, J=2.0 Hz, 1H), 8.45 (s, 1H).

reactant | Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 4.77 mmol, 1.237 g | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 4.77 mmol, 1.554 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(chloromethyl)-2-isopropoxybenzonitrile | 4.77 mmol, 1.0 g | ClCC=1C=CC(=C(C#N)C1)OC(C)C | C11H12ClNO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 1.32 g | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC1OC(C)C | C26H28N2O4
